US05296480
5-[4'-(iodomethyl)[1,1'-biphenyl]-2-yl]-1-(triphenylmethyl)-1H-tetrazole
A mixture of 4.0 g of 5-[4'-(bromomethyl)[1,1'-biphenyl]-2-yl]-1-(triphenylmethyl)-1H-tetrazole and 2.2 g of potassium iodide in 50 ml of acetone is heated at reflux for 50 minutes. The reaction mixture is filtered and the filtrate evaporated in vacuo to a residue which is stirred with cold water and the resulting solid collected by filtration, washed with water and air dried to give 4.1 g of the desired product as a solid.

reactant | 5-[4'-(bromomethyl)[1,1'-biphenyl]-2-yl]-1-(triphenylmethyl)-1H-tetrazole | 4.0 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
reactant | potassium iodide | 2.2 g | [I-].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 5-[4'-(iodomethyl)[1,1'-biphenyl]-2-yl]-1-(triphenylmethyl)-1H-tetrazole | 4.1 g | ICC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25IN4
